US04343811
2-[3-(4-Chlorophenyl)-1,2-dimethyl-1H-indole-5-yloxy]-2-methyl-propanoic acid
A mixture of 5.4 g (0.02 mole) of 3-(4-chlorophenyl)-1,2-dimethyl-1H-indole-5-ol, and 5.1 g (0.03 mole) of 2-bromo-2-methyl-propanoic acid was heated for two hours to 90°-130° C. Subsequently the mixture was taken up in chloroform/methanol (8:2) and chromatographed on silicagel. The evaporation residue of the eluate was stirred with cyclohexane and suction filtered.

reactant | 3-(4-chlorophenyl)-1,2-dimethyl-1H-indole-5-ol | 0.02 mole, 5.4 g | ClC1=CC=C(C=C1)C1=C(N(C2=CC=C(C=C12)O)C)C | C16H14ClNO
reactant | 2-bromo-2-methyl-propanoic acid | 0.03 mole, 5.1 g | BrC(C(=O)O)(C)C | C4H7BrO2
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 2-[3-(4-Chlorophenyl)-1,2-dimethyl-1H-indole-5-yloxy]-2-methyl-propanoic acid | ClC1=CC=C(C=C1)C1=C(N(C2=CC=C(C=C12)OC(C(=O)O)(C)C)C)C | C20H20ClNO3
